US07067537B2
Production of 3-{2-[4-methylpyridin-3-yl]-1,3-thiazol-4-yl}benzamide
3-{2-[4-Methylpyridin-3-yl]-1,3-thiazol-4-yl}benzonitrile (100 mg) was dissolved in conc. hydrochloric acid (4 ml) and the mixture was stirred at 40° C. for 16 hrs. The reaction mixture was added to aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was recrystallized from ethyl acetate-methanol to give the title compound (72 mg) as pale-yellow powder crystals.

reactant | 3-{2-[4-Methylpyridin-3-yl]-1,3-thiazol-4-yl}benzonitrile | 100 mg | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C#N)C=CC1 | C16H11N3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 4 ml | Cl | ClH
product | 3-{2-[4-methylpyridin-3-yl]-1,3-thiazol-4-yl}benzamide | 72 mg | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)N)C=CC1 | C16H13N3OS
